US04285942
1-(Diisopropylamino-propoxyimino)cyclododecane
Starting from 18.23 g. (0.1 moles) of cyclododecanone and 30.16 g. (0.12 moles) of diisopropylaminopropoxyamine dihydrochloride the title compound is prepared as in Example 13. Yield: 24.2 g. (71.6%). Hydrogen fumarate, m.p.: 119°-121° C.

reactant | cyclododecanone | 0.1 moles | C1(CCCCCCCCCCC1)=O | C12H22O
reactant | diisopropylaminopropoxyamine dihydrochloride | 0.12 moles | Cl.Cl.C(C)(C)N(C(C)C)CCCON
reactant | Hydrogen fumarate | C(\C=C\C(=O)[O-])(=O)O
product | 1-(Diisopropylamino-propoxyimino)cyclododecane | C(C)(C)N(C(C)C)CCCON=C1CCCCCCCCCCC1 | C21H42N2O
